US04980470
To a suspension of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (2 g) in anhydrous acetonitrile were added 3-t-butoxycarbonylaminopyrrolidine (1.86 g) and 1,8-diazabicyclo[5,4,0]undec-7-en (DBU, 1.02 g) and then the mixture was refluxed for 3 hours. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in chloroform (50 ml). The resulting solution was washed with 10% aqueous citric acid solution (20 ml), and with saturated saline solution successively. The organic layer was dried over anhydrous sodium sulfate and then concentrated. The residue was dissolved in hot methanol (20 ml) and then cooled. The resulting crystals were collected by filtration to give 7-(3-t-butoxycarbonylamino-1-pyrrolidinyl)-1-cyclopropyl-1,4-dihydro-6-fluoro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (2.25 g) as yellowish white prisms, mp 224°-226° C. (decompd.).

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 2 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | 3-t-butoxycarbonylaminopyrrolidine | 1.86 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | 1,8-diazabicyclo[5,4,0]undec-7-en | 1.02 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-(3-t-butoxycarbonylamino-1-pyrrolidinyl)-1-cyclopropyl-1,4-dihydro-6-fluoro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 2.25 g | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C23H28FN3O6
